US04578396
7.5 g (0.25 mol) of sodium hydride (80% strength suspension in oil) are slowly introduced, at 10° C., into a solution of 50.1 g (0.3 mol) of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one in 150 ml of absolute N,N-dimethylformamide, and the mixture is stirred at 20° C. until the evolution of gas has ended. A solution of 62 g (0.3 mol) of 4-chlorobenzyl bromide in 50 ml of N,N-dimethylformamide is then added dropwise, while stirring. After 5 hours, the reaction mixture is stirred into 900 ml of water, and the solid product which separates out is filtered off and recrystallized from 175 ml of ethanol. 55.6 g (76.3% of theory) of 5-(4-chlorophenyl)-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-pentan-3-one are obtained in the form of colorless crystals of melting point 124° C.

reactant | sodium hydride | 0.25 mol, 7.5 g | [H-].[Na+]
reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one | 0.3 mol, 50.1 g | CC(C)(C(CN1N=CN=C1)=O)C | C8H13N3O
reactant | 4-chlorobenzyl bromide | 0.3 mol, 62 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | water | 900 ml | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(4-chlorophenyl)-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-pentan-3-one | 55.6 g, 76.3% | ClC1=CC=C(C=C1)CC(C(C(C)(C)C)=O)N1N=CN=C1 | C15H18ClN3O
